US05885986
A yellow suspension of 8.60 g (0.0316 mol) of 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide in 200 ml of dioxan was treated with 4.41 g (0.0347 mol) of 1,3-dichloro-2-propanone. The suspension was boiled at reflux for 3 hrs., cooled and filtered. The solution was boiled at reflux for a further 16 hrs., cooled and suction filtered. The product was recrystallized from hot acetonitrile. There were obtained 5.4 g (65%) of 3-(4-chloromethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals. An analytical sample could be obtained from the mother liquor after chromatography (silica gel, cyclohexane/ethyl acetate 1:1) and recrystallization (acetonitrile); m.p. 248°-249°.

reactant | 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide | 0.0316 mol, 8.60 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(N)=S | C13H12N4OS
reactant | 1,3-dichloro-2-propanone | 0.0347 mol, 4.41 g | ClCC(CCl)=O | C3H4Cl2O
solvent | dioxan | 200 ml | O1CCOCC1 | C4H8O2
product | 3-(4-chloromethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 5.4 g, 65% | ClCC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C16H13ClN4OS
